US06297239B1
Step C: Preparation of (4-Bromo-3-fluoro-phenyl)-(4-chloro-phenyl)-(1-trityl-1H-imidazol-4-yl)-methanol
4-Iodo-1-trityl-1H-imidazole (1.39 g, 3.18 mmol) was dissolved in anhydrous CH2Cl2 (10 mL). To this solution was added a 3.0M solution of ethylmagnesium bromide (1.11 mL, 3.34 mmol) and stirred under Ar. After 3 hr, a solution of (4-bromo-3-fluoro-phenyl)-(4-chloro-phenyl)-methanone (1.00 g, 3.18 mmol) dissolved in CH2Cl2 (5 mL) was added dropwise and the resulting solution was stirred overnight. The reaction was quenched with satd. NH4Cl solution, diluted with satd. NaHCO3 solution to pH=8.5, and extracted with CH2C2 (3×). The combined organic layers were dried (MgSO4), concentrated and purified using SiO2 chromatography (10-20% EtOAc/Hexane) to yield the title compound.

reactant | 4-Iodo-1-trityl-1H-imidazole | 3.18 mmol, 1.39 g | IC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
reactant | ethylmagnesium bromide | 3.34 mmol, 1.11 mL | C(C)[Mg]Br
reactant | (4-bromo-3-fluoro-phenyl)-(4-chloro-phenyl)-methanone | 3.18 mmol, 1.00 g | BrC1=C(C=C(C=C1)C(=O)C1=CC=C(C=C1)Cl)F | C13H7BrClFO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (4-Bromo-3-fluoro-phenyl)-(4-chloro-phenyl)-(1-trityl-1H-imidazol-4-yl)-methanol | BrC1=C(C=C(C=C1)C(O)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)F | C35H25BrClFN2O
